* C:\Users\Carlos\Desktop\ITBA\3er año\1er cuatri\E1\Electronica_1\TP1\Simulaciones\Simulacion_Darlington.asc
q1 N001 N004 N005 0 BC337-25
R1 N001 N004 100k
R2 N004 0 300k
R3 N003 N002 10k
R5 0 N006 5k
R6 0 N007 1k
C1 N007 N006 4.7µ
C2 NC_01 N003 1µ
V1 N008 0 SINE(0 1 1000) AC 1
V2 N001 0 15
R7 N006 N005 10k
R4 N008 N007 100
V3 N002 0 SINE(0 1 1000) AC 1
Q3 N001 N005 N006 0 BC337-25
.model NPN NPN
.model PNP PNP
.lib C:\Users\Carlos\Documents\LTspiceXVII\lib\cmp\standard.bjt
;tran 0 0.005 .0001
.ac dec 1000 1 10Meg
.backanno
.end
